US05959113
A solution of 2.8 g of 2,6-dimethyl-3-nitrobenzaldehyde in 150 ml of toluene was treated with 5 ml of ethylene glycol and 20 mg of p-toluenesulphonic acid. The mixture was heated to reflux for 18 hours, with the water being separated using a separator. The mixture was left to cool to room temperature and was washed twice with water. After drying over anhydrous magnesium sulphate the solvent was evaporated and the crystalline residue was crystallized from hexane. 3.0 g of 2-(2,6-dimethyl-3-nitrophenyl)-1,3-dioxolane, m.p. 69-71° C., were obtained.

reactant | 2,6-dimethyl-3-nitrobenzaldehyde | 2.8 g | CC1=C(C=O)C(=CC=C1[N+](=O)[O-])C | C9H9NO3
reactant | ethylene glycol | 5 ml | C(CO)O | C2H6O2
reactant | p-toluenesulphonic acid | 20 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2,6-dimethyl-3-nitrophenyl)-1,3-dioxolane | 3.0 g | CC1=C(C(=CC=C1[N+](=O)[O-])C)C1OCCO1 | C11H13NO4
